US08609848B2
A mixture of 2.6 g of 5-hydroxy-2-methylbenzoic acid (see below), 7.0 g potassium carbonate and 3.8 ml benzyl chloride in 50 ml DMF are stirred at 50° C. for two hours, until the reaction is completed according to TLC analysis. The reaction mixture is portioned between water and EA, and the phases are separated. The organic phase is washed three times with 1 M sodium carbonate solution and once with brine, dried over MgSO4, and the solvent is removed under reduced pressure yielding benzyl 5-(benzyloxy)-2-methylbenzoate, which is used for the next step without further purification.

reactant | 5-hydroxy-2-methylbenzoic acid | 2.6 g | OC=1C=CC(=C(C(=O)O)C1)C | C8H8O3
reactant | potassium carbonate | 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 3.8 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | benzyl 5-(benzyloxy)-2-methylbenzoate | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)OCC2=CC=CC=C2)C1)C | C22H20O3
